US07851473B2
4-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyridazin-3-ylpiperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl pyridazin-3-ylcarbamate (226 mg, 0.835 mmol), 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine (200 mg, 0.760 mmol) and diisopropylethylamine (0.265 ml, 1.52 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 3 days. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give the desired product (92.7 ml, 28.1%) as a solid. mp 176-177° C.

reactant | 2,2,2-trichloroethyl pyridazin-3-ylcarbamate | 0.835 mmol, 226 mg | N1=NC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
reactant | 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine | 0.760 mmol, 200 mg | FC=1C=C(C=CC1)C=1N=C(SC1)N1CCNCC1 | C13H14FN3S
reactant | diisopropylethylamine | 1.52 mmol, 0.265 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyridazin-3-ylpiperazine-1-carboxamide | 92.7 ml, 28.1% | FC=1C=C(C=CC1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC=1N=NC=CC1 | C18H17FN6OS
